US06504025B2
Preparation of (6R,7R)-7-[(Z)-2-(5-Amino-[1,2,4]thiadiazol-3-yl)-2-hydroxyimino-acetylamino]-8-oxo-3-[(E)-(R)-2-oxo-[1,3′]bipyrrolidinyl-3-ylidenemethyl]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic Acid
5.2 (large scale): A suspension of 5.785 g of (6R,7R)-7-[(Z)-2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-[(E)-(R)-1′-tert.-butoxycarbonyl-2-oxo-[1,3′]bipyrrolidinyl-3-ylidene-methyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid and 1.69 ml of triethylsilane in 25 ml of dichloromethane was treated at −15° with 7.21 ml of trifluoroacetic acid and the solution was heated to 30° for 30 min after which time HPLC indicated completion of the reaction. The mixture was evaporated to dryness, the residue was digested with 60 ml of ethyl acetate, the suspension was filtered and the residue dried to give 3.43 g of the crude title compound as a brown solid, containing about 1.4 equivalents of ethylacetate. 1H-NMR (d6-DMSO): 13.9 (s, br., 1H, COOH); 11.94 (s, 1H, OH); 9.50 (d, J=8.4, 1H, NH—C(7)); 8.96 (s, br., 2H, NH2); 8.07 (s, br., 2H, NH2); 7.26 (s, br., 1H, CH—C(3)); 5.88 (dd, J=8.4 and 4.9, 1H, H—C(7)); 5.18 (d, J=4.9, 1H, H—C(6)); 4.64 (m, 1H); 3.87 (s, br., 2H H2C(4)); 3.9-2.7 (m, 8H); 2.2-2.0 (m, 2H).

reactant | (6R,7R)-7-[(Z)-2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-[(E)-(R)-1′-tert.-butoxycarbonyl-2-oxo-[1,3′]bipyrrolidinyl-3-ylidene-methyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 5.785 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H44N8O8S2
reactant | triethylsilane | 1.69 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 7.21 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (6R,7R)-7-[(Z)-2-(5-Amino-[1,2,4]thiadiazol-3-yl)-2-hydroxyimino-acetylamino]-8-oxo-3-[(E)-(R)-2-oxo-[1,3′]bipyrrolidinyl-3-ylidenemethyl]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic Acid | 3.43 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)[C@H]1CNCC1)=O)=N/O | C20H22N8O6S2
